US06491989B1
2-[4-(Butyldimethylsilanyl)butyl]-5-(4-decylphenyl)-6,7-difluoro-1,2,3,4-tetrahydronaphthalene
From 6-[4-(butyldimethylsilanyl)butyl]-2,3-difluoro-5,6,7,8-tetrahydronaphthalene-1-boronic acid and 4-bromodecylbenzene by means of the Suzuki coupling.

reactant | 6-[4-(butyldimethylsilanyl)butyl]-2,3-difluoro-5,6,7,8-tetrahydronaphthalene-1-boronic acid | C(CCC)[Si](CCCCC1CC=2C=C(C(=C(C2CC1)B(O)O)F)F)(C)C | C20H33BF2O2Si
reactant | 4-bromodecylbenzene | BrC(CCCC1=CC=CC=C1)CCCCCC | C16H25Br
product | 2-[4-(Butyldimethylsilanyl)butyl]-5-(4-decylphenyl)-6,7-difluoro-1,2,3,4-tetrahydronaphthalene | C(CCC)[Si](CCCCC1CC2=CC(=C(C(=C2CC1)C1=CC=C(C=C1)CCCCCCCCCC)F)F)(C)C | C36H56F2Si
